US08466163B2
A mixture of 1,6-dichloropiperazine U (3.9 g; 26 mmol) and freshly prepared sodium methoxide (62 mmol) in anhydrous methanol (50 ml) was refluxed overnight and the solvent was removed under reduced pressure. The residue was diluted to 100 ml with CH2Cl2 and the solution washed with water, brine and dried over anhydrous MgSO4 and filtered off. The filtrate was evaporated under reduced pressure to give pure 1,6-dimethoxypiperazine V (3.6 g; 98%) as a colourless crystals. 1HNMR (CDCl3) 3.94 (s, 6H); 7.76 (s, 2H).

reactant | 1,6-dichloropiperazine | ClN1CCNCC1Cl | C4H8Cl2N2
reactant | sodium methoxide | 62 mmol | C[O-].[Na+]
reactant | methanol | 50 ml | CO | CH4O
product | 1,6-dimethoxypiperazine | CON1CCNCC1OC | C6H14N2O2
